### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Dual): add inf/iInf lemmas for `dualCoannihilator` for finite dimensional subspaces

### PR DESCRIPTION
**Pull request by martinwintermath**
Add

* `dualCoannihilator_inf` proving `(W ⊓ W').dualCoannihilator = W.dualCoannihilator ⊔ W'.dualCoannihilator`
* `dualCoannihilator_iInf` proving `(⨅ i, W i).dualCoannihilator = ⨆ i, (W i).dualCoannihilator`

These lemmas are counterparts to the existing [`Submodule.dualCoannihilator_sup_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual/Defs.html#Submodule.dualCoannihilator_sup_eq) and [`Subspace.dualAnnihilator_inf_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual/Lemmas.html#Subspace.dualAnnihilator_inf_eq) and their indexed version. In contrast to those, the new lemmas need to assume `FiniteDimensional` for all subspaces.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 1]
```diff
@@ -997,6 +997,22 @@ theorem finiteDimensional_quot_dualCoannihilator_iff {W : Submodule K (Dual K V)
   ⟨fun _ ↦ FiniteDimensional.of_injective _ W.flip_quotDualCoannihilatorToDual_injective,
     fun _ ↦ FiniteDimensional.of_injective _ W.quotDualCoannihilatorToDual_injective⟩
 
+theorem dualCoannihilator_inf_eq {W W' : Subspace K (Dual K V)}
+      [FiniteDimensional K W] [FiniteDimensional K W'] :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean]:
```suggestion
    [FiniteDimensional K W] [FiniteDimensional K W'] :
```

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 2]
```diff
@@ -997,6 +997,22 @@ theorem finiteDimensional_quot_dualCoannihilator_iff {W : Submodule K (Dual K V)
...
+    (W ⊓ W').dualCoannihilator = W.dualCoannihilator ⊔ W'.dualCoannihilator := by
+  rw [← dualAnnihilator_inj, dualAnnihilator_sup_eq]
+  repeat rw [dualCoannihilator_dualAnnihilator_eq]
+
+theorem dualCoannihilator_iInf_eq {ι : Type*} (W : ι → Subspace K (Module.Dual K V))
+    [inst : ∀ i, FiniteDimensional K (W i)] :
+  (⨅ i, W i).dualCoannihilator = ⨆ i, (W i).dualCoannihilator := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean]:
```suggestion
    (⨅ i, W i).dualCoannihilator = ⨆ i, (W i).dualCoannihilator := by
```

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 3]
```diff
@@ -997,6 +997,22 @@ theorem finiteDimensional_quot_dualCoannihilator_iff {W : Submodule K (Dual K V)
   ⟨fun _ ↦ FiniteDimensional.of_injective _ W.flip_quotDualCoannihilatorToDual_injective,
     fun _ ↦ FiniteDimensional.of_injective _ W.quotDualCoannihilatorToDual_injective⟩
 
+theorem dualCoannihilator_inf_eq {W W' : Subspace K (Dual K V)}
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean]:
```suggestion
theorem dualCoannihilator_inf {W W' : Subspace K (Dual K V)}
```
Same below

Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean]:
```suggestion
theorem dualCoannihilator_inf_eq (W W' : Subspace K (Dual K V))
```

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean (hunk 1 above)
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean]: Claude claims this is true for weak-closed W and W', instead of just finite dimensional ones

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean (hunk 3 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/Dual/Lemmas.lean]: There are a ton of lemmas in this file that do the "_eq" pattern. I tried to go with this style, but I agree with you that we shouldn't.

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean (hunk 1 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/Dual/Lemmas.lean]: I think you would also need that `dualCoannihilator W ⊔ dualCoannihilator W'` is weak-closed. In fact, this should be equivalent to the statement in question (when you assume that W and W' are weak-closed).

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 4]
```diff
@@ -998,6 +998,22 @@ theorem finiteDimensional_quot_dualCoannihilator_iff {W : Submodule K (Dual K V)
...
     fun _ ↦ FiniteDimensional.of_injective _ W.quotDualCoannihilatorToDual_injective⟩
 
+theorem dualCoannihilator_inf (W W' : Subspace K (Dual K V))
+    [FiniteDimensional K W] [FiniteDimensional K W'] :
+    (W ⊓ W').dualCoannihilator = W.dualCoannihilator ⊔ W'.dualCoannihilator := by
+  rw [← dualAnnihilator_inj, dualAnnihilator_sup_eq]
+  repeat rw [dualCoannihilator_dualAnnihilator_eq]
+
+theorem dualCoannihilator_iInf {ι : Type*} (W : ι → Subspace K (Module.Dual K V))
+    [inst : ∀ i, FiniteDimensional K (W i)] :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean]:
```suggestion
    [∀ i, FiniteDimensional K (W i)] :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
